US07553854B2
To the reaction solution of isobutyric acid (4 μl, 40 μmol), HATU (15 mg, 40 μmol) and DIEA (14 μL, 80 μmol) in 400 μL of DMA was added (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide (13 mg, 30 μmol) and DIPEA (6 μL, 30 μmol). The reaction solution was stirred at room temperature for 16 hours. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give (S)-4-(2-(1-isobutyrylpiperidin-3-ylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (6.8 mg, 15 μmol) as white powder. ES/MS m/z 454.2 (MH+).

reactant | isobutyric acid | 40 μmol, 4 μl | C(C(C)C)(=O)O | C4H8O2
reactant | HATU | 40 μmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 80 μmol, 14 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide | 30 μmol, 13 mg | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CNCCC2)C=C1)=O | C19H21N5O2S
reactant | DIPEA | 30 μmol, 6 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 400 μL | CC(=O)N(C)C | C4H9NO
product | (S)-4-(2-(1-isobutyrylpiperidin-3-ylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 15 μmol, 6.8 mg | C(C(C)C)(=O)N1C[C@H](CCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C23H27N5O3S
